US09023847B2
To a solution of methyl ({[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)thiophen-2-yl]carbonyl}amino)acetate (50 mg, 0.15 mmol) in tetrahydrofuran (2 mL) was added a pre-mixed solution of benzylamine (25 uL, 0.23 mmol) and trimethylaluminum (2.0 M toluene, 91 uL, 0.18 mmol). The solution was stirred at room temperature for 10 minutes then water was added resulting in precipitation. The precipitate was collected by filtration and dried under vacuum to afford 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (benzylcarbamoyl-methyl)-amide (55 mg, 90%) (ESI) 406 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.54 (1H, br. s.) 10.31 (1H, s) 8.46 (1H, t, J=6.08 Hz) 8.39 (1H, t, J=5.69 Hz) 8.03 (1H, d, J=5.37 Hz) 7.81 (1H, d, J=5.42 Hz) 7.51 (1H, d, J=5.42 Hz) 7.33 (1H, dd, J=3.20, 2.71 Hz) 7.28 (4H, d, J=0.05 Hz) 7.16-7.25 (1H, m) 6.85 (1H, d, J=5.47 Hz) 6.44 (1H, dd, J=3.47, 1.90 Hz) 4.30 (2H, d, J=5.95 Hz) 3.89 (2H, d, J=5.71 Hz)

reactant | methyl ({[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)thiophen-2-yl]carbonyl}amino)acetate | 0.15 mmol, 50 mg | N1C=CC=2C1=NC=CC2NC2=C(SC=C2)C(=O)NCC(=O)OC | C15H14N4O3S
reactant | benzylamine | 0.23 mmol, 25 uL | C(C1=CC=CC=C1)N | C7H9N
reactant | trimethylaluminum | 0.18 mmol, 2.0 M, 91 uL | C[Al](C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (benzylcarbamoyl-methyl)-amide | 55 mg, 90% | C(C1=CC=CC=C1)NC(=O)CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H19N5O2S
